US04937246
In a mixture of methylene chloride (2 ml) and methanol (10 ml) is dissolved 1-[3-oxospiro[benzofuran-2(3H), 1'-cyclopropan]-5-ylcarbonyl]-4-(3,4,5-trimethoxybenzyl)piperazine (0.5 g). To the solution is added, while stirring under ice-cooling, sodium borohydride (0.2 g). The reaction mixture is concentrated under reduced pressure. After addition of water (50 ml), the residue is extracted with ethyl acetate. The extract is washed with water, dried, and concentrated to give 1-[3-hydroxyspiro[benzofuran-2(3H), 1'-cyclopropan]-5-ylcarbonyl]-4-(3,4,5-trimethoxybenzyl)piperazine (0.48 g) as a colorless oily product. This product (0.15 g) and fumaric acid (0.04 g) are dissolved in methanol (3 ml). The mixture is concentrated under reduced pressure. To the concentrate is added ether to give 1-[3-hydroxyspiro[benzofuran-2(3H), 1'-cyclopropan]-5-ylcarbonyl]-4-(3,4,5-trimethoxybenzyl)piperazine-fumarate (0.13 g) as a powdery product.

reactant | 1-[3-oxospiro[benzofuran-2(3H), 1'-cyclopropan]-5-ylcarbonyl]-4-(3,4,5-trimethoxybenzyl)piperazine | 0.5 g | O=C1C2=C(OC13CC3)C=CC(=C2)C(=O)N2CCN(CC2)CC2=CC(=C(C(=C2)OC)OC)OC | C25H28N2O6
reactant | sodium borohydride | 0.2 g | [BH4-].[Na+]
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 10 ml | CO | CH4O
product | 1-[3-hydroxyspiro[benzofuran-2(3H), 1'-cyclopropan]-5-ylcarbonyl]-4-(3,4,5-trimethoxybenzyl)piperazine | 0.48 g | OC1C2=C(OC13CC3)C=CC(=C2)C(=O)N2CCN(CC2)CC2=CC(=C(C(=C2)OC)OC)OC | C25H30N2O6
